US07402595B2
3-acetyl-2-(4-acetylbenzyl)-6-bromo-4-phenyl-2H-isoquinolin-1-one
To a solution of 4-(3-acetyl-6-bromo-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)-N-methoxy-N-methylbenzamide (330 mg) in tetrahydrofuran (10 ml) was added methyl magnesium bromide (3M tetrahydrofuran solution, 0.64 ml) under ice-cooling and the mixture was stirred for 2 hrs. under ice-cooling. The reaction solution was poured into saturated aqueous ammonium chloride solution, extracted with ethyl acetate, washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=19/1→7/3) to give the title compound (259 mg, 87%).

reactant | 4-(3-acetyl-6-bromo-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)-N-methoxy-N-methylbenzamide | 330 mg | C(C)(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C(=O)N(C)OC)C=C1 | C27H23BrN2O4
reactant | methyl magnesium bromide | 3M, 0.64 ml | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-acetyl-2-(4-acetylbenzyl)-6-bromo-4-phenyl-2H-isoquinolin-1-one | 259 mg, 87% | C(C)(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)C(C)=O | C26H20BrNO3
